* CD4538
* https://forums.ni.com/ni/attachments/ni/370/4261/1/CD4538BCN.txt
.SUBCKT 4538  CD A B T1 T2 Q NOTQ VDD VSS
****EDGE TRIGGER GENERATION****
AADCIN   [CD A B]  [C1 C2 CB]  ADC
A1  C1 Y1 DELAY1
A2  C2 Y2 DELAY1
A3  CB Y3 DELAY1
A5  [C2 Y2] OA AND
A6  [CB Y3] OB NOR
A7  [OCLR OA OB] O4 OR
ADACIN [O4] [1]  DAC
ADACEN [C1] [CLEAR] DAC
RCLR CLEAR VSS 1.0K
S2 9 9A CLEAR VSS VSW1
RS3 9A 0 1G ; added by H. Vogt
****CORE SECTION*****
V2 T1  VSS    0
R1 1   3      100
S1 T2 VSS 3 GND VSW
R3 4    VDD    10.0K
Q2 4    T2 5 QIDEAL
R2 5    VSS    10.0K
Q3 6    7 5    QIDEAL
R5 VDD  6      10.0K
R6 VDD  7      1.0K
R7 7    VSS    2K
V1 8    VSS    DC 5
Czc  T2 T2a 20p
Rcomp T2 T2a 0.5k
AA1  %VD (4 6 )  8 VSS  %GD( 9 VSS ) CURLIMITA1
* OUTPUT STAGE  (DIGITAL)
AADCOUT [9A] [B3]  ADC
A8  B3 Y4 NOT
A9  Y4 Y5 NOT
ADACOUT [Y4 Y5] [NOTQ Q] DAC
****MODEL/SUBCIRCUIT SECTION****
.MODEL VSW SW ( VT = 2 VH = 1 RON = 0.001 ROFF = 1E+009 )
.MODEL VSW1 SW ( VT = 2.5 VH = 0.01 RON = 1E-3 ROFF = 1E+12 )
.MODEL ADC ADC_BRIDGE  (IN_LOW= 0.8 IN_HIGH = 2.5 )
.MODEL DAC DAC_BRIDGE  (OUT_LOW= 0 OUT_HIGH= 4.5 OUT_UNDEF= 0 )
.MODEL DELAY1 D_INVERTER (RISE_DELAY =10N FALL_DELAY = 10N)
.MODEL NOT D_INVERTER
.MODEL NOR D_NOR
.MODEL OR  D_OR
.MODEL AND D_AND
.MODEL QIDEAL NPN
.MODEL CURLIMITA1 ILIMIT(
+ IN_OFFSET=0.07
+ GAIN=10
+ R_OUT_SOURCE=1
+ R_OUT_SINK=1
+ I_LIMIT_SOURCE=0.01
+ I_LIMIT_SINK=0.01
+ V_PWR_RANGE=1E-006
+ I_SOURCE_RANGE=1E-009
+ I_SINK_RANGE=1E-009
+ R_OUT_DOMAIN=1E-009)
.ENDS
*============= Model template =================
*x%p_a %tCDA %tAA %tBA %tT1A %tT2A %tQA %t~QA %tVDD %tVSS %m