Test for 4538 model

.param VDDp = 5
.param Rx1p = 40k
.param Cx1p = 10n
.csparam timeset = 'Rx1p*Cx1p*0.7'

.include CD4538BCN.lib

VDD vdd 0 {VDDp}
Rx1 T2 vdd {Rx1p}
Cx1 T2 T1 {Cx1p}

* CD A B T1 T2 Q NOTQ VDD VSS
Xcd4538 CD A vdd T1 T2 Q NOTQ vdd 0 4538

* both voltages (input clock and re-trigger) are in series
Vin A retrig dc 0 PULSE (0 {VDDp} 100n 10n 10n 200n 1m)
* re-trigger fourth output pulse
Vinretrigger  retrig 0 dc 0 PULSE (0 {VDDp} 3.3m 10n 10n 200n 1)

* reset second output pulse
Vreset CD 0 dc {VDDp} PULSE ({VDDp} 0 1.2m 10n 10n 500u 1)

.control
tran 1u 5m
set xbrushwidth=2
plot v(A) v(Q) v(CD)
display
echo pulse width set to $&timeset s
* measure width of first output pulse
meas tran tdiff TRIG v(q) VAL={0.5*VDDp} RISE=1 TARG v(q) VAL={0.5*VDDp} FALL=1
plot v(q)
rusage
.endc

.end
