
* (DUAL) RETRIGGERABLE MONOSTABLE MULTIVIBRATOR
* Pulse Width Tw = R * C
* tpd R,A,B->Q     300n
* tr 100n
* Tpulse 75n, C=0, Rext=5k
.SUBCKT CD14538B  A B CLR  CGND RC  Q QN  VDD VGND  vdd1={vdd} speed1={speed} tripdt1={tripdt}
.param egain=1/{vdd1}
.param td5=1e-9*(50)*5.0/{vdd1}*{speed1}
.param td2=1e-9*(20)*5.0/{vdd1}*{speed1}
*
XINA    A   Ai    VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XINB    B   Bi    VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XINCLR  CLR CLRi  VDD VGND  CD40_IN_1  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
XINRC1  RC  RCi   VDD VGND  CD40_IN_0  vdd2={vdd1}  speed2={speed1}  tripdt2={tripdt1} 
*
* Model of a 74HC123A derived  from SGS-Thomson data sheet.
* Helmut Sennewald, 13.9.2002
A4 DHIGH 0 N014 0 N004 N006 N005 0 DFLOP   tripdt={tripdt1}  td={td5}
*A3 0 N015 N016 N023 0  N014 0 0 OR  tripdt={tripdt1}  td={td5}
A3 0 N015 N016 0 0     0 N014 0  OR  tripdt={tripdt1}  td={td5}
A1 Ai 0 0 0 0          0 N015 0  SCHMITT  Vt=0.46 Vh=0.02  tripdt={tripdt1}  td={td5}
A2 Bi 0 0 0 0          N016 0 0  SCHMITT  Vt=0.46 Vh=0.02  tripdt={tripdt1}  td={td5}
A6 0 N008 0 N006 0     N007 0 0  AND  tripdt={tripdt1}  td={td5}
A5 0 N009 0 N007 0     N008 0 0  AND  tripdt={tripdt1}  td={td5}
A14 0 N003 0 N021 0    N004 0 0  AND  tripdt={tripdt1}  td={td2}
A13 0 N003 0 N005 0    0 N030 0  AND  tripdt={tripdt1}  td={td5}
A12 N005 0 0 0 0       N012 0 0  BUF  tripdt={tripdt1}  td={td5}
A21 0 N010 0 N011 0    0 N009 0  OR  tripdt={tripdt1}  td={td5}
A22 0 N005 0 N007 0    N010 0 0  OR  tripdt={tripdt1}  td={td5}
A11 0 N013 0 N012 0    0 N003 0  OR  tripdt={tripdt1}  td={td5}
A7 0 N007 0 N018 0     QNi Qi 0  AND  tripdt={tripdt1}  td={td5}
A20 RCi 0 0 0 0        N011 0 0  SCHMITT  tripdt={tripdt1}  td={td5}  Vt=0.65 Vh=0.2m 
A10 RCi 0 0 0 0        0 N013 0  SCHMITT  tripdt={tripdt1}  td={td5}  Vt=0.1 Vh=0.2m 
A32 0 N006 0 N021 0    N022 0 0  OR  tripdt={tripdt1}  td={td5}
A31 0 N022 0 N023 0    N021 0 0  OR  tripdt={tripdt1}  td={td2}
A33 N021 0 0 0 0       N019 0 0  BUF  tripdt={tripdt1}  td={td5}
A30 CLRi 0 0 0 0       N023 0 0  BUF  tripdt={tripdt1}  td={td5}
A34 0 N007 0 N006 0    N020 0 0  AND  tripdt={tripdt1}  td={td5}
A35 0 N020 0 N018 0    N017 0 0  OR  tripdt={tripdt1}  td={td5}
A36 0 N017 0 N019 0    N018 0 0  OR  tripdt={tripdt1}  td={td5}
M10 RC N001 VGND VGND NMOS1
M30 RC N024 VDD VDD PMOS1
D1 RC VDD DIO1
D2 VGND RC DIO1
R10 N001 N002 100
R30 N024 N029 100
R3 CGND VGND 1
E4 RCi 0 RC VGND {egain}
E7 N029 VDD N018 0 {VDD1}
E8 N002 VGND N030 0 {VDD1}
V1 DHIGH 0 DC 1
.MODEL NMOS1 NMOS ( LEVEL=3  W=500e-6  L=4E-6  VTO=1
+ VMAX=1E6  RS=10  RD=10  CJ=0.002  MJ=0.4 
+THETA=1E-6 ETA=0.01  KAPPA=2.2)
.MODEL PMOS1 PMOS ( LEVEL=3  W=500e-6  L=4E-6  VTO=-1 
+ VMAX=1E6  RS=10  RD=10  CJ=0.002  MJ=0.4 
+THETA=1E-6 ETA=0.01  KAPPA=2.2)
.MODEL DIO1 D (IS=10p RS=10 N=1.75 M=0.4 Cjo=6p TT=20n)
*
XOUT0  Qi  Q   VDD VGND  CD40_OUT_1X  VDD2={VDD1} speed2={speed1}  tripdt2={tripdt1}
XOUT1  QNi QN  VDD VGND  CD40_OUT_1X  VDD2={VDD1} speed2={speed1}  tripdt2={tripdt1}
.ends
*
*